US04146625
A mixture of 38.0 g of 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, ethyl ester and 800 ml of 6N hydrochloric acid was heated at reflux for 1.5 hours; the reaction mass was cooled, filtered, washed with water, and dried to give 36.4 g of 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, m.p. 221°-223°.

reactant | 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, ethyl ester | 38.0 g | FC=1C=C2C(C(=CN(C2=C(C1)C)CC(F)(F)F)C(=O)OCC)=O | C15H13F4NO3
solvent | hydrochloric acid | 6N, 800 ml | Cl | ClH
product | 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid | 36.4 g | FC=1C=C2C(C(=CN(C2=C(C1)C)CC(F)(F)F)C(=O)O)=O | C13H9F4NO3
